US07429667B2
1-(2,5-Dichloro-phenoxy)-2-fluoro-4-nitro-benzene
A mixture of 3,4-difluoronitrobenzene (3.2 g, 0.02 mol), 2,5-dichlorophenol (3.59 g, 0.022 mol), and potassium carbonate (3.0 g, 0.022 mol) in 25 ml of anhydrous DMF was heated to 150° C. with stirring overnight. After cooling to room temperature, the reaction mixture was poured into 500 ml of ice water and stirred for 30 min. The precipitates were collected by filtration, washed with water, and dried in vacuo to give 5.72 g (94.7%) of crude product.

reactant | 3,4-difluoronitrobenzene | 0.02 mol, 3.2 g | FC=1C=C(C=CC1F)[N+](=O)[O-] | C6H3F2NO2
reactant | 2,5-dichlorophenol | 0.022 mol, 3.59 g | ClC1=C(C=C(C=C1)Cl)O | C6H4Cl2O
reactant | potassium carbonate | 0.022 mol, 3.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | 1-(2,5-Dichloro-phenoxy)-2-fluoro-4-nitro-benzene | 5.72 g, 94.7% | ClC1=C(OC2=C(C=C(C=C2)[N+](=O)[O-])F)C=C(C=C1)Cl | C12H6Cl2FNO3
